US07632783B2
3-(5-fluoro-4-hydroxy-3,3-dimethyl-3,4-dihydroisoquinolin-1-yl)quinoline (Compound No. 1-935)(Process F)
Sodium borohydride (103 mg) was added to a methanol (8 mL) solution of 3-(5-fluoro-4-keto-3,3-dimethyl-3,4-dihydroisoquinolin-1-yl)quinoline (300 mg, 0.9 mmol) followed by stirring for 2.5 hours at room temperature, pouring water, extracting with ethyl acetate, and applying the resulting residue to chromatography to obtain 215 mg (yield 74%) of the target compound.

reactant | Sodium borohydride | 103 mg | [BH4-].[Na+]
reactant | methanol | 8 mL | CO | CH4O
reactant | 3-(5-fluoro-4-keto-3,3-dimethyl-3,4-dihydroisoquinolin-1-yl)quinoline | 0.9 mmol, 300 mg | FC1=C2C(C(N=C(C2=CC=C1)C=1C=NC2=CC=CC=C2C1)(C)C)=O | C20H15FN2O
solvent | water | O | H2O
product | 3-(5-fluoro-4-hydroxy-3,3-dimethyl-3,4-dihydroisoquinolin-1-yl)quinoline | 215 mg, yield 74% | FC1=C2C(C(N=C(C2=CC=C1)C=1C=NC2=CC=CC=C2C1)(C)C)O | C20H17FN2O
